US07449475B2
N-{4-Chloro-2-[(2S)-oxiran-2-ylmethoxy]phenyl}acetamide
To a mixture of (2S)-oxiran-2ylmethyl3-nitrobenzenesulfonate (3.37 g, 13.25 mmol), N-(4-chloro-2-hydroxyphenyl)acetamide (2.46 g, 17.23 mmol) and Cs2CO3 (6.48 g, 19.88 mmol) was added DMF (20 mL) at 0° C. and the reaction mixture was stirred at 0° C. for 3 h. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (hexane:ethyl acetate 3:2) to give the subtitled compound (2.36 g).

reactant | (2S)-oxiran-2ylmethyl3-nitrobenzenesulfonate | 13.25 mmol, 3.37 g | O1[C@@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | N-(4-chloro-2-hydroxyphenyl)acetamide | 17.23 mmol, 2.46 g | ClC1=CC(=C(C=C1)NC(C)=O)O | C8H8ClNO2
reactant | Cs2CO3 | 19.88 mmol, 6.48 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-{4-Chloro-2-[(2S)-oxiran-2-ylmethoxy]phenyl}acetamide | 2.36 g | ClC1=CC(=C(C=C1)NC(C)=O)OC[C@H]1OC1 | C11H12ClNO3
